US06340679B1
(a) 4-{4-[(2S)-2-tert-Butoxycarbonyl-2-(4-trifluoromethylbenzensulfonylamino)ethyl]-phenoxy}-butyric acid
210.5 mg of 4-[4-((2S)-2-amino-2-tert-butoxycarbonyl-ethyl)-phenoxy]-butyric acid were dissolved in 2 ml of DMF and cooled to 0° C. 269 mg of 4-trifluoromethylbenzenesulfonyl chloride and 284 mg of diisopropylethylamine were added and the reaction mixture was stirred at 0° C. for 2 hours. The reaction mixture was cooled to −25° C. for 16 hours and then warmed to room temperature. The reaction was quenched by the addition of water, and the mixture was extracted three times with dichloromethane. The combined organic phases were dried with sodium sulfate, filtered and the solvent was removed in vacuo. The residue was chromatographed on silica gel eluting with dichloromethane/methanol/water/acetic acid (9/1/0.1/0.1). Yield 66 mg. MS (ES+): m/e=532.2 (M+H)+; 476.1.

reactant | 4-[4-((2S)-2-amino-2-tert-butoxycarbonyl-ethyl)-phenoxy]-butyric acid | 210.5 mg | N[C@@H](CC1=CC=C(OCCCC(=O)O)C=C1)C(=O)OC(C)(C)C | C17H25NO5
reactant | 4-trifluoromethylbenzenesulfonyl chloride | 269 mg | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | diisopropylethylamine | 284 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-{4-[(2S)-2-tert-Butoxycarbonyl-2-(4-trifluoromethylbenzensulfonylamino)ethyl]-phenoxy}-butyric acid | C(C)(C)(C)OC(=O)[C@H](CC1=CC=C(OCCCC(=O)O)C=C1)NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C24H28F3NO7S
